US04024175
15.9 g. monomethyl 1,1-cycloheptane-diacetate are dissolved in 100 ml. anhydrous acetone and, in a manner analogous to that described in Example 1, first mixed with 8.1 g. triethylamine in 30 ml. acetone, thereafter with 9.8 g. ethyl chloroformate in 30 ml. anhydrous acetone and finally with 6.5 g. sodium azide in 20 ml. water. After the reaction has taken place, the reaction mixture is extracted as in Example 1 and the solution obtained of monomethyl 1,1-cycloheptane-diacetate azide is rearranged in toluene to the isocyanate. The methyl 1-isocyanatomethyl-1-cycloheptane-acetate obtained is boiled for 3 hours under reflux in 20% hyrochloric acid. Upon evaporaton in a vacuum, 1aminomethyl-1 -cycloheptane-acetic acid separates out in the form of its hydrochloride, which is recrystallised form methanol/acetone/ethyl acetate; m.p. 69°-72° C.

reactant | monomethyl 1,1-cycloheptane-diacetate | C1(CCCCCC1)(CC(=O)OC)CC(=O)[O-]
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
solvent | water | O | H2O
solvent | acetone | CC(=O)C | C3H6O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | monomethyl 1,1-cycloheptane-diacetate azide | [N-]=[N+]=[N-].C1(CCCCCC1)(CC(=O)OC)CC(=O)[O-] | InChI=1S/C12H20O4.N3/c1-16-11(15)9-12(8-10(13)14)6-4-2-3-5-7-12;1-3-2/h2-9H2,1H3,(H,13,14);/q;-1/p-1
